US08278442B2
Preparation 80: 6,7-Difluoro-3,3a,4,8b-tetrahydroindeno[2,1-d]oxazol-2-one
To (5,6-difluoro-1-oxoindan-2-yl)carbamic acid benzyl ester (Preparation 79) (238 mg, 0.75 mmol) was added TFA (5 mL) and triethylsilane (0.59 mL, 3.75 mmol). The reaction mixture was stirred for 24 h. Solvent was removed in vacuo and the residue purified by column chromatography (MeOH:DCM 5:95) to give the title compound: δH (CDCl3) 3.06-3.15 (1H, m), 3.29 (1H, dd), 4.79 (1H, t), 5.98 (1H, d), 7.10 (1H, dd), 7.27-7.35 (1H, m), 12.02 (1H, s).

reactant | (5,6-difluoro-1-oxoindan-2-yl)carbamic acid benzyl ester | 0.75 mmol, 238 mg | C(C1=CC=CC=C1)OC(NC1C(C2=CC(=C(C=C2C1)F)F)=O)=O | C17H13F2NO3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 3.75 mmol, 0.59 mL | C(C)[SiH](CC)CC | C6H16Si
product | 6,7-Difluoro-3,3a,4,8b-tetrahydroindeno[2,1-d]oxazol-2-one | FC=1C=C2CC3NC(OC3C2=CC1F)=O | C10H7F2NO2
